US09289430B2
2-amino-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-5-(piperidin-1-yl)-benzamide
Into a 50-mL round bottom flask, was placed a solution of N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-2-nitro-5-(piperidin-1-yl)benzamide (400 mg, 0.95 mmol, 1.00 equiv) in acetic acid (8 mL), and zinc (600 mg, 9.23 mmol, 9.96 equiv). The resulting solution was stirred for 1 h at 70° C. The solids were filtered out. The resulting mixture was concentrated under vacuum. The solution was adjusted to pH 8 with ammonia (2 mol/L). The resulting solution was extracted with 2×50 mL of ethyl acetate and the organic layers combined, dried over anhydrous sodium sulfate, and concentrated under vacuum. This resulted in 300 mg (81%) of 2-amino-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-5-(piperidin-1-yl)benzamide as a green solid.

reactant | N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-2-nitro-5-(piperidin-1-yl)benzamide | 0.95 mmol, 400 mg, 1.00 equiv | CC=1C=C(C=CC1C)N1N=C(C=C1)NC(C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-])=O | C23H25N5O3
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 9.23 mmol, 600 mg, 9.96 equiv | [Zn] | Zn
product | 2-amino-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-5-(piperidin-1-yl)-benzamide | NC1=C(C(=O)NC2=NN(C=C2)C2=CC(=C(C=C2)C)C)C=C(C=C1)N1CCCCC1 | C23H27N5O
